US06833456B2
To (2S,4R)-4-Trimethylsilanyloxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester 1.50 g (4.22 mmol) in 5 mL of anhydrous THF under an atmosphere of Ar in an ice bath, was added 2.56 mL LiBH4 (2.0 M in THF, 5.12 mmol) drop-wise. The solution was stirred for 3 h. The mixture was quenched with 1 mL of Sat. NaHCO3 and EtOAc (50 mL). The organics were washed with Sat. NaHCO3 (2×50 mL). The organic layer was dried over Na2SO4 and the solution was concentrated to afford 1.31 g (96%) of (2S,4R)-2-Hydroxymethyl-4-trimethylsilanyloxy-pyrrolidine-1-carboxylic acid benzyl ester as clear oil. HPLC: Rt 2.87 min. (100% area). 1H NMR (CDCl3, 400 MHz) δ 7.26-7.20 (5H, m), 5.05 (2H, s), 4.47 (1H, d, J=7.4 Hz), 4.20 (1H, bs), 4.08 (1H, q, J=7.3 Hz), 3.64 (1H, t, J=9.1 Hz), 3.51-3.47 (1H, m), 3.41-3.35 (2H, m), 1.89-1.84 (1H, m), 1.57-1.52 (1H, m), 0.11 (9H, s). LCMS (ESI) (M+H+) m/z: 324.2.

reactant | (2S,4R)-4-Trimethylsilanyloxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 4.22 mmol, 1.50 g | COC(=O)[C@H]1N(C[C@@H](C1)O[Si](C)(C)C)C(=O)OCC1=CC=CC=C1 | C17H25NO5Si
reactant | LiBH4 | 5.12 mmol, 2.0 M, 2.56 mL | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S,4R)-2-Hydroxymethyl-4-trimethylsilanyloxy-pyrrolidine-1-carboxylic acid benzyl ester | 1.31 g, 96% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C)CO | C16H25NO4Si
